US05665777
To a solution in THF (15 mL) of O-benzyl-4-[3-(4-fluorophenyl)phenoxy]butanohydroxamic acid (0.29 g, 0.77 mmol), prepared as in step 3, was added 10% palladium on carbon (0.107 g) and the mixture was stirred overnight under a positive H2 pressure. Purification by reverse phase high performance liquid chromatography gave 4-[3-(4-fluorophenyl)phenoxy]butanohydroxamic acid (57 mg) as a white solid. 1H NMR (DMSO-d6) δ 1.94 (m, 2H), 2.16 (t, 2H, J=7 Hz), 4.03 (t, 2H, J=6 Hz), 6.92 (dd, 1H, J=2, 8 Hz), 7.16 (m, 1H), 7.20 (d, 1H, J=7 Hz), 7.28 (t, 2H, J=9 Hz), 7.37 (t, 1H, J=8 Hz), 7.71 (dd, 2H, J=5, 8 Hz), 8.71 (s, 1H), 10.42 (s, 1H). MS (DCI/NH3) 307 (M+NH4+, 100), 290 (M+H+, 30). Anal. Calcd for: C16H16FNO3 : C, 66.43; H, 5.57; N, 4.84. Found: C, 66.04; H, 5.48; N, 4.78.

reactant | O-benzyl-4-[3-(4-fluorophenyl)phenoxy]butanohydroxamic acid | 0.77 mmol, 0.29 g | C(C1=CC=CC=C1)ONC(CCCOC1=CC(=CC=C1)C1=CC=C(C=C1)F)=O | C23H22FNO3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 0.107 g | [Pd] | Pd
product | 4-[3-(4-fluorophenyl)phenoxy]butanohydroxamic acid | 57 mg | FC1=CC=C(C=C1)C=1C=C(OCCCC(=O)NO)C=CC1 | C16H16FNO3
